US06818644B1
a. 2-Chloro-6-phenoxy-pyridine
A reaction mixture consisting of 1.48 g (10 mmol) of 2,6-dichloropyridine, 6 g (63.75 mmol) of phenol and 2.4 g (60 mmol) of sodium hydroxide in 10 ml of water is heated to 140° C. for 24 hours in a bomb. After cooling the reaction mixture is made strongly alkaline with sodium hydroxide solution and extracted with dichloromethane. The organic phase is separated off and dried over sodium sulphate. Purification is by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate=3:1).

reactant | 2,6-dichloropyridine | 10 mmol, 1.48 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | phenol | 63.75 mmol, 6 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 60 mmol, 2.4 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-Chloro-6-phenoxy-pyridine | ClC1=NC(=CC=C1)OC1=CC=CC=C1 | C11H8ClNO
